US04096255
A solution of 2 g of ethyl 4-[N2 -(7-methoxy-2-naphthalenesulfonyl)-L-arginyl]thiomorpholine-3-carboxylate in 15 ml of methanol and 4 ml of 2N sodium hydroxide solution was warmed to 50° C and held at that temperature for 24 hours. At the end of this period, the reaction mixture was concentrated and chromatographed on 200 ml of Daiaion® SK 102 ion exchange resin (200-300 mesh, H+ form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with ethanol-water (1:4) and eluted with ethanol-water-NH4OH (10:9:1). The main fraction was evaporated to dryness and washed with ether to give 1.3 g of 4-[N2 -(7-methoxy-2-naphthalenesulfonyl)-L-arginyl]thiomorpholine-3-carboxylic acid.

reactant | ethyl 4-[N2 -(7-methoxy-2-naphthalenesulfonyl)-L-arginyl]thiomorpholine-3-carboxylate | 2 g | COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1C(CSCC1)C(=O)OCC | C24H33N5O6S2
solvent | methanol | 15 ml | CO | CH4O
solvent | sodium hydroxide | 2N, 4 ml | [OH-].[Na+]
product | 4-[N2 -(7-methoxy-2-naphthalenesulfonyl)-L-arginyl]thiomorpholine-3-carboxylic acid | 1.3 g | COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1C(CSCC1)C(=O)O | C22H29N5O6S2
